US06855716B2
Synthesis of 4-(3-chlorophenyl)-6-methyl-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid (3,3-diphenylpropyl)amide
150 mg (0.562 mmol) of 4-(3-chlorophenyl)-6-methyl-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid and 178 mg (0.843 mmol) of 3,3-diphenylpropylamine were dissolved in 10 ml of DMF. 162 mg (0.843 mmol) of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (hereinafter referred to as WSC hydrochloride) was added to the obtained solution under cooling with ice, and they were stirred at room temperature overnight. After the concentration under reduced pressure, the reaction mixture was diluted with ethyl acetate and then washed with 1 N hydrochloric acid, saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (dichloromethane/methanol=50/1 to 10/1) to obtain the title compound.

reactant | 4-(3-chlorophenyl)-6-methyl-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid | 0.562 mmol, 150 mg | ClC=1C=C(C=CC1)C1NC(NC(=C1C(=O)O)C)=O | C12H11ClN2O3
reactant | 3,3-diphenylpropylamine | 0.843 mmol, 178 mg | C1(=CC=CC=C1)C(CCN)C1=CC=CC=C1 | C15H17N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.843 mmol, 162 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | WSC hydrochloride | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-(3-chlorophenyl)-6-methyl-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid (3,3-diphenylpropyl)amide | C1(=CC=CC=C1)C(CCNC(=O)C=1C(NC(NC1C)=O)C1=CC(=CC=C1)Cl)C1=CC=CC=C1 | C27H26ClN3O2
